US07446117B2
4-{[4-(methylthio)phenyl]carbonyl}morpholine
To a stirred solution of 4-(methylthio)benzoic acid (6.76 g, 40.2 mmol) and N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride (9.24 g, 48.2 mmol) in THF (100 mL) was added morpholine (4.2 mL, 48.2 mmol). After stirring for 2 hours, the reaction was concentrated in vacuo and the residue partitioned between ethyl acetate (100 mL) and 2M hydrochloric acid (150 mL). The organic phase was separated, washed with 1M aqueous sodium carbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo to give the title compound LC retention time 3.52 mins MS m/z 238 (MH+).

reactant | 4-(methylthio)benzoic acid | 40.2 mmol, 6.76 g | CSC1=CC=C(C(=O)O)C=C1 | C8H8O2S
reactant | N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride | 48.2 mmol, 9.24 g | Cl.CN(CCN=C=NCC)C
reactant | morpholine | 48.2 mmol, 4.2 mL | N1CCOCC1 | C4H9NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-{[4-(methylthio)phenyl]carbonyl}morpholine | CSC1=CC=C(C=C1)C(=O)N1CCOCC1 | C12H15NO2S
